US08461175B2
A microwave tube with a 5 ml capacity is charged with 45 mg of 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile, prepared in example 12, and 0.2 ml of a 20% aqueous solution of ammonium sulphide in 2 ml of methanol. The mixture is microwave-heated at 100° C. for 20 min (power set at 100 watts) and then poured into 50 ml of water and extracted with AcOEt. The organic phase is washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. The solid obtained is triturated in diisopropyl ether. The insolubles are filtered off under RP and dried under vacuum to give 36 mg of 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carbothioamide (yellow solid). 1H NMR (400 MHz, DMSO-d6) δ ppm: 1.66 (m, 2 H) 2.11 (m, 2 H) 2.88 (s, 3 H) 2.90 (m, 2 H) 3.56 (m, 2 H) 3.79 (m, 1H) 6.10 (d, J=8.3 Hz, 1 H) 7.33 (t, J=7.8 Hz, 2 H) 7.68 (m, 1 H) 8.18 (broad s, 1 H) 8.34 (dd, J=8.3, 1.5 Hz, 1 H) 8.40 (d, J=8.3 Hz, 1 H) 9.74 (broad s, 1 H) 10.01 (broad s, 1 H) 12.87 (broad m, 1 H) LC-MS-DAD-ELSD: 517 (+)=(M+H)(+).

reactant | 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile | 45 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C#N)NN=C2NC2CCN(CC2)S(=O)(=O)C | C23H20F2N6O2S
reactant | ammonium sulphide | [NH4+]=S
reactant | water | 50 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carbothioamide | 36 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C(N)=S)NN=C2NC2CCN(CC2)S(=O)(=O)C | C23H22F2N6O2S2
